US07776864B2
Step 7: 2-Methyl-6-phenyl-5-[4-({4-[5-(1,3-thiazol-2-yl)-1H-1,2,4-triazol-3-yl]piperidin-1-yl}methyl)phenyl][1,2,4]triazolo[1,5-a]pyrimidine hydrochloride
The hydrochloride can be obtained by adding to a solution of 2-Methyl-6-phenyl-5-[4-({4-[5-(1,3-thiazol-2-yl)-1H-1,2,4-triazol-3-yl]piperidin-1-yl}methyl)phenyl][1,2,4]-triazolo[1,5-a]pyrimidine in methanol an adequate amount of hydrochloric acid solution (5.84N in methanol). After stirring for 1 h the hydrochloride can be filtered and dried.

reactant | hydrochloride | Cl | ClH
reactant | 2-Methyl-6-phenyl-5-[4-({4-[5-(1,3-thiazol-2-yl)-1H-1,2,4-triazol-3-yl]piperidin-1-yl}methyl)phenyl][1,2,4]-triazolo[1,5-a]pyrimidine | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C=2SC=CN2)=N1 | C29H27N9S
reactant | hydrochloric acid | 5.84N | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-Methyl-6-phenyl-5-[4-({4-[5-(1,3-thiazol-2-yl)-1H-1,2,4-triazol-3-yl]piperidin-1-yl}methyl)phenyl][1,2,4]triazolo[1,5-a]pyrimidine hydrochloride | Cl.CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C=2SC=CN2)=N1 | InChI=1S/C29H27N9S.ClH/c1-19-31-29-32-25(24(18-38(29)36-19)21-5-3-2-4-6-21)22-9-7-20(8-10-22)17-37-14-11-23(12-15-37)26-33-27(35-34-26)28-30-13-16-39-28;/h2-10,13,16,18,23H,11-12,14-15,17H2,1H3,(H,33,34,35);1H
